US07705042B2
4-Cyano-1H-pyrrole-2-carboxylic acid (2-(4-methyl-piperidin-1-yl)-4-[1-(2,2,2-trifluoroethyl)-piperidin-4-yl]-phenyl)-amide
A mixture of 4-cyano-1H-pyrrole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperidin-4-yl-phenyl]-amide bis(trifluoroacetic acid salt) (as prepared in Example 35, 25 mg, 0.040 mmol), trifluoromethanesulfonic acid 2,2,2-trifluoroethyl ester (9.8 mg, 0.042 mmol) and Na2CO3 (21 mg, 0.20 mmol) in 1 mL of DMF was stirred at RT for 8 h. Treated with 30 mL of EtOAc, the mixture was washed with H2O (2×10 mL), brine (10 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (40% EtOAc/hexane) gave 11 mg (55%) of the title compound as a white solid: 1H-NMR (CDCl3; 400 MHz): δ 10.7 (s, 1H), 9.20 (s, 1H), 8.29 (d, 1H, J=8.4 Hz), 7.47 (dd, 1H, J=3.1, 1.4 Hz), 7.10 (d, 1H, J=1.8 Hz), 7.04 (dd, 1H, J=8.4, 1.8 Hz), 6.87 (dd, 1H, J=3.1, 1.4 Hz), 2.90-3.14 (m, 6H), 2.72 (dd, 2H, J=11.5, 11.5 Hz), 2.41-2.52 (m, 3H), 1.74-1.90 (m, 6H), 1.60 (br s, 1H), 1.34-1.44 (m, 2H), 1.09 (d, 3H, J=6.5 Hz). Mass spectrum (ESI, m/z): Calcd. for C25H30F3N5O, 474.2 (M+H), found 474.1.

reactant | 4-cyano-1H-pyrrole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperidin-4-yl-phenyl]-amide | CC1CCN(CC1)C1=C(C=CC(=C1)C1CCNCC1)NC(=O)C=1NC=C(C1)C#N | C23H29N5O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoromethanesulfonic acid 2,2,2-trifluoroethyl ester | 0.042 mmol, 9.8 mg | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
reactant | Na2CO3 | 0.20 mmol, 21 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-Cyano-1H-pyrrole-2-carboxylic acid (2-(4-methyl-piperidin-1-yl)-4-[1-(2,2,2-trifluoroethyl)-piperidin-4-yl]-phenyl)-amide | 11 mg, 55% | CC1CCN(CC1)C1=C(C=CC(=C1)C1CCN(CC1)CC(F)(F)F)NC(=O)C=1NC=C(C1)C#N | C25H30F3N5O
